US06211215B1
In substantially the same manner as in Working Example 72, 1-[4-(4-hydroxyphenyl)butyl]imidazole was reacted with 4-chloromethyl-2-(2-thienyl)thiazole to obtain 4-[4-[4-(1-imidazolyl)butyl]phenoxymethyl]-2-(2-thienyl)thiazole. The yield was 82%. Recrystallization from ethyl acetate-hexane gave colorless prisms, mp 108-109° C.

reactant | 1-[4-(4-hydroxyphenyl)butyl]imidazole | OC1=CC=C(C=C1)CCCCN1C=NC=C1 | C13H16N2O
reactant | 4-chloromethyl-2-(2-thienyl)thiazole | ClCC=1N=C(SC1)C=1SC=CC1 | C8H6ClNS2
product | 4-[4-[4-(1-imidazolyl)butyl]phenoxymethyl]-2-(2-thienyl)thiazole | yield was 82% | N1(C=NC=C1)CCCCC1=CC=C(OCC=2N=C(SC2)C=2SC=CC2)C=C1 | C21H21N3OS2
